US06413954B1
(3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-hydroxy-2H-azepin-2-one (25 g, 102 mmol), tert-butyldimethylsilyl chloride (23.16 g, 153 mmol), and imidazole (10.45 g, 153 mmol) are combined with 60 mL of DMF. The reaction is stirred at room temperature overnight. The mixture is diluted with 1 L of water. The resulting mixture is extracted with a 1:1 ( 2×200 mL) mixture of ethyl acetate and hexane. All organic layers are combined, washed with brine solution, dried with NaSO4, and concentrated. The residue is purified by recrystallization with ethyl acetate/hexane to give 28.5 g (78%) of (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-tert-butyldimethylsilyloxy-2H-azepin-2-one as a white solid; 1H NMR (CDCl3) δ5.86 (d, J=6 Hz, 1H), 5.58 (t, J=6 Hz, 1H), 4.18 (m, 1H), 3.91 (s, 1H), 3.35(dd, J=6 Hz and 16 Hz, 1H), 3.07 (m, 1H), 1.80 (m, 4H), 1.40 (s, 9H), 0.83 (s, 9H), 0.004 (s, 6H).

reactant | (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-hydroxy-2H-azepin-2-one | 102 mmol, 25 g | C(C)(C)(C)OC(=O)N[C@@H]1C(NC[C@@H](CC1)O)=O | C11H20N2O4
reactant | tert-butyldimethylsilyl chloride | 153 mmol, 23.16 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 153 mmol, 10.45 g | N1C=NC=C1 | C3H4N2
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | 1 L | O | H2O
product | (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-tert-butyldimethylsilyloxy-2H-azepin-2-one | 28.5 g, 78% | C(C)(C)(C)OC(=O)N[C@@H]1C(NC[C@@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C17H34N2O4Si
